US04085109
d. 2-Ethylthio-pyridine was prepared by the same method as used for compound (1) c., except that ethyl halide was used instead of methyl halide. The product had a b.p. of 77°-77.5° C./8 mm. Hg. (1) e. (Pyridyl-2)-thiol acetate was prepared by reacting acetic anhydride with 2-mercaptopyridine in alkaline medium according to the method described in Houben-Weyl, 4th ed., vol. 9, 753 (1955) and in J.A.C.S. 59, 1089 (1937). The product has a b.p. of 117°-118° C./9 mm. Hg.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | 2-Ethylthio-pyridine | C(C)SC1=NC=CC=C1 | C7H9NS
